Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Transient facial droop, right-sided weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ old man with no significant past
medical history who presents with transient facial droop and
right-sided weakness.

Patient was in his usual state of health this morning and
returned from work driving a bus around 7:50 AM.  His wife
noticed that he had sudden onset slurred speech and a right
facial droop and looked confused.  He tried to grab a door to
walk through the house and was unable to lift his right arm.  
His
wife called EMS who brought him to ___ - ___.  ___ stroke
scale was notable for 1 for right facial droop.  CT head did not
show any bleed CTA showed a possible acute thrombus in the left
M2 segment.  No TPA was given.  Patient did not go for
thrombectomy given his rapidly improving symptoms.  Given that
neurology is not available at ___, patient was transferred
for further management.

On arrival to ___, patient felt back to normal and had a stroke
scale of 0.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Enlarged prostate
 
Social History:
___
Family History:
Noncontributory

 
Physical Exam:
ADMISSION PHYSICAL EXAM

Vitals: T: 98.0 P: 61  R: 16  BP: 130/84 SaO2: 99% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5   5     5      5   
R  5    ___   ___    5   5     5      5   

-Sensory: No deficits to light touch. No extinction to DSS. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF or HKS
bilaterally.

-Gait: Deferred 

DISCHARGE PHYSICAL EXAMINATION:
Vitals: 
Temperature: 99.5-97.9 
Heart rate: ___ 
Blood pressure: 98/61-125/89 
Respiratory rate: ___ 
O2 saturation: 96-98% 

General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Neurologic examination:
Mental status: 
Patient is pleasant and he has no problem with communication 
with examiner including expressing ideas and following commands. 
 Fluent use of language. 

Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

Motor: 
Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.

  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

Sensory: 
No deficits to light touch, proprioception throughout.
No extinction to DSS.

Reflexes:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

Coordination: 
No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

Gait: 
Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent. 

 
Pertinent Results:
MRI/MRA of brain ___: 
A couple of punctate foci of hyperintense DWI signal in the left 
parietal cortex without definite correlate on ADC, T2 or FLAIR 
imaging.  These lesions most likely represent tiny hyperacute 
infarcts, but in the differential consider the fact that these 
lesions may be artifactual in nature
Periventricular and deep white matter T2 and FLAIR 
hyperintensities are 
nonspecific but most likely related to microangiopathy. 
Bilateral maxillary sinus mucosal thickening. 
  
MRV Pelvis ___: 
No evidence of deep vein thrombosis in the pelvis. Enlarged 
prostate 

Bilateral lower extremity US ___: 
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

 
Brief Hospital Course:
___ without significant past medical history admitted with 
transient right-sided facial droop, speech difficulty, upper 
extremity weakness, and sensory disturbance, found on CTA at 
___ to have left M2 occlusion prior to transfer to 
___. Symptoms resolved on arrival to ___, although 
examination notable for subtle right-sided weakness in the 
distal upper > proximal lower extremities. MRI brain revealed 
small left parietal infarcts suggestive of a cardioembolic 
origin, although no paroxysmal atrial fibrillation noted on 
telemetry during the admission. Due to intracranial artery 
stenosis noted on vascular imaging, patient was started on 
aspirin 81 mg daily and atorvastatin 80 mg daily. TTE revealed a 
PFO, but there were no DVTs on MRA pelvis ___ US.  Patient was 
discharged with ___ and ___ follow up with Dr. ___.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL = 123) - () No  
 5. Intensive statin therapy administered? () Yes - () No [if 
LDL >70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 ]  
 6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? () Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  
 
Medications on Admission:
None 
 
Discharge Medications:
Atorvastatin 80 mg daily 
Aspirin 81 mg daily
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient ischemic attacks

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

During this admission you were determined to have a transient 
ischemic attack and because you are at a high risk of stroke we 
have started you on aspirin 81 mg daily and atorvastatin 80 mg 
daily.  We are uncertain exactly why you had this event, but to 
complete our workup we will discharge you with a monitor to look 
for abnormal rhythms.  We will have you follow up in stroke 
follow up clinic with Dr. ___.   

Thank you for allowing us to care for you
___ Neurology  
 
Followup Instructions:
___